US04177274
0.200 G. of 2-amino 6-(phenylthio) imidazo [1,2-a] pyridine is suspended in 2.2 ml. of water and treated dropwise with 0.0140 gm. of methyl chloroformate. After stirring the reaction mixture for 30 minutes at room temperature, solid sodium bicarbonate (0.111 gm.) is added in small portions. The solids are collected by filtration washed with water and dried. After recrystallization from ethanol, the purified 2-methoxycarbonylamino-6-(phenylthio) imidazo [1,2-a] pyridine m.p. 247°-249° C. is obtained.

reactant | 2-amino 6-(phenylthio) imidazo [1,2-a] pyridine | NC=1N=C2N(C=C(C=C2)SC2=CC=CC=C2)C1 | C13H11N3S
reactant | methyl chloroformate | ClC(=O)OC | C2H3ClO2
reactant | sodium bicarbonate | 0.111 gm | C([O-])(O)=O.[Na+]
solvent | water | O | H2O
product | 2-methoxycarbonylamino-6-(phenylthio) imidazo [1,2-a] pyridine | COC(=O)NC=1N=C2N(C=C(C=C2)SC2=CC=CC=C2)C1 | C15H13N3O2S
